US08895733B2
Intermediate 180: tert-Butyl 4-[(2,2,2-trifluoroethoxy)methyl]piperidine-1-carboxylate
tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate (0.300 g, 1.393 mmol), 2,2,2-trifluoroethan-1-ol (1.00 mL, 13.935 mmol), triphenylphosphine (0.440 g, 1.672 mmol) and N-{[(tert-butoxy)carbonyl]imino}(tert-butoxy)formamide (0.390 g, 1.672 mmol) were combined in THF (10 mL) and stirred at room temperature for 36 h before being heated to 75 C for 18 h. The reaction mixture was concentrated under reduced pressure and purified by FCC (EtOAc: heptane, 1:1) to afford the title compound (0.192 g, 50%). Method B HPLC-MS: MH+ requires m/z=297 Found: m/z=242 (MH+-tBu), Rt=2.25 min (100%).

reactant | tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 1.393 mmol, 0.300 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | 2,2,2-trifluoroethan-1-ol | 13.935 mmol, 1.00 mL | FC(CO)(F)F | C2H3F3O
reactant | triphenylphosphine | 1.672 mmol, 0.440 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-{[(tert-butoxy)carbonyl]imino}(tert-butoxy)formamide | 1.672 mmol, 0.390 g | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-[(2,2,2-trifluoroethoxy)methyl]piperidine-1-carboxylate | 0.192 g, 50% | FC(COCC1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C13H22F3NO3
